US05385908
N-Benzoyl-4-methyl isonipecotic acid (1.21 g, 4.88 mmol) was dissolved in 20 mL of 6N HCl and refluxed overnight. The mixture was cooled and benzoic acid removed by filtration. The filtrate was evaporated and crystallization from acetone/dichloromethane provided 0.62 g of 4-methyl isonipecotic acid (90%). 1H NMR (300 MHz DMSO d6) δ9.0 (s, 1H), 3.1 (m, 2H), 2.7 (m, 2H), 2.0 (m, 2 H), 1.6 (m, 2H), 1.1 (s, 3H).

reactant | N-Benzoyl-4-methyl isonipecotic acid | 4.88 mmol, 1.21 g | C(C1=CC=CC=C1)(=O)N1CCC(C(=O)O)(CC1)C | C14H17NO3
solvent | HCl | 6N, 20 mL | Cl | ClH
product | 4-methyl isonipecotic acid | 0.62 g, 90% | CC1(CCNCC1)C(=O)O | C7H13NO2
